US06262040B1
4-[(1-Cyclopentyl-3-ethyl-1H-indazole-6-carbonyl)-amino]-benzoic acid
A mixture of 380 mg (0.971 mmol, 1.0 equiv) 4-[(1-cyclopentyl-3-ethyl-1H-indazole-6-carbonyl)-amino]-benzoic acid methyl ester, 4 mL 1N NaOH and 20 mL methanol was heated to reflux for 40 minutes. After cooling to room temperature, the reaction mixture was concentrated on a rotary evaporator, and the residue diluted with 150 mL H2O, acidified to pH=1, and extracted 2×50 mL ethyl acetate. The organic extracts were combined, washed 1×25 mL each H2O, brine, and dried over Na2SO4. Filtration, concentration of filtrate, and drying at high vacuum, room temperature gave 298 mg (81%) of a white crystalline solid: mp 249-251° C.; Anal. calcd for C22H23N3O3: C, 70.00; H, 6.14; N, 11.13. Found: C, 69.66; H, 6.13; N, 11.08.

reactant | 4-[(1-cyclopentyl-3-ethyl-1H-indazole-6-carbonyl)-amino]-benzoic acid methyl ester | 0.971 mmol, 380 mg, 1.0 equiv | COC(C1=CC=C(C=C1)NC(=O)C1=CC=C2C(=NN(C2=C1)C1CCCC1)CC)=O | C23H25N3O3
reactant | NaOH | 1N, 4 mL | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | 4-[(1-Cyclopentyl-3-ethyl-1H-indazole-6-carbonyl)-amino]-benzoic acid | 298 mg, 81% | C1(CCCC1)N1N=C(C2=CC=C(C=C12)C(=O)NC1=CC=C(C(=O)O)C=C1)CC | C22H23N3O3
